US08871756B2
N-{[3-(Aminomethyl)-1,1-dioxidothietan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 6-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (1,1-dioxidothietane-3,3-diyl)dimethanamine. MS obsd. (ESI+) [(M+H)+] 501, 1H NMR (400 MHz, CD3Cl) δ ppm 7.958-7.939 (d, J=7.6 Hz, 1 H), 7.651-7.633 (d, J=7.2 Hz, 1 H), 7.482-7.415 (m, 2 H), 7.308-7.270 (t, J=7.2 Hz, 1 H), 7.235-7.215 (d, J=8.0 Hz, 1 H), 7.134 (s, 1 H), 6.646 (s, 1 H), 5.065 (s, 2 H), 4.701-1.250 (brs, 2 H), 3.924-3.890 (m, 4 H), 3.659-3.646 (d, J=5.2 Hz, 2 H), 3.491 (s, 2 H), 3.320 (s, 2 H), 2.323 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (1,1-dioxidothietane-3,3-diyl)dimethanamine | O=S1(CC(C1)(CN)CN)=O | C5H12N2O2S
product | N-{[3-(Aminomethyl)-1,1-dioxidothietan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NCC1(CS(C1)(=O)=O)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C24H28N4O4S2
